US05420275
3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(1,2,4-triazol-1-yl)pyridine
In 25 ml of ethyl acetate was dissolved 0.35 g of 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(1,2,4-triazol-1-yl)pyridine, whereto 0.2 g of 10% Pd-C (50% wet) was added. The mixture was stirred in a stream of hydrogen at room temperature for 2.5 hours. After the catalyst was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography (eluent:chloroform/ethyl acetate 4:1), to give 0.215 g of the title compound.

reactant | 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(1,2,4-triazol-1-yl)pyridine | 0.35 g | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)N1N=CN=C1 | C19H17N5O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | [Pd] | Pd
product | 3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(1,2,4-triazol-1-yl)pyridine | 0.215 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N1N=CN=C1)C1=CC=CC=C1 | C19H19N5O4
